US06977264B2
Step (a) tert-Butyl 4-[2-(trifluoromethyl)phenyl]-1,2,5,6-tetrahydropyridinecarboxylate
The title compound was prepared according to the procedure described in Preparation A using 2-(trifluoromethyl)phenylboronic acid (Aldrich) (1.89 g, 10 mmol), tert-butyl 4-[(trifluoromethyl)sulfonyloxy]-1,2,5,6-tetrahydropyridinecarboxylate [prepared by the method of Wustrow, D. J. and Wise, L. D., Synthesis, 1991, 993-995, from tert-butyl-4-oxopiperidine-1-carboxylate (Aldrich), LDA (Aldrich) and N-phenyltrifluoromethanesulfonimide (Aldrich)] (3.64 g, 11 mmol), tetrakis(triphenylphosphine)palladium (0) (Strem Chemicals) (0.578 g, 0.5 mmol), LiCi (Aldrich) (1.27g, 30 mmol), and Na2CO3 (Aldrich) (2.46 g, 30 mmol) in water (15 mL) and DME (20 mL). Purification by silica gel chromatography (5:1 hexane:EtOAc) provided the title compound as a white foam (2.01 g). MS (ESI, pos. ion) m/z: 328 (M+1); MS (ESI, neg. ion) m/z: 326 (M−1). Calc'd for C17H20F3NO2: 327.34.

reactant | 2-(trifluoromethyl)phenylboronic acid | 10 mmol, 1.89 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | tert-butyl 4-[(trifluoromethyl)sulfonyloxy]-1,2,5,6-tetrahydropyridinecarboxylate | FC(S(=O)(=O)OC1=CC(NCC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | tert-butyl-4-oxopiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyltrifluoromethanesulfonimide | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Na2CO3 | 30 mmol, 2.46 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 15 mL | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 0.578 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-[2-(trifluoromethyl)phenyl]-1,2,5,6-tetrahydropyridinecarboxylate | 2.01 g | FC(C1=C(C=CC=C1)C1=CC(NCC1)C(=O)OC(C)(C)C)(F)F | C17H20F3NO2
